Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lightheadedness, ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o M with PMH notable for CAD s/p stent in 
early ___ and 3v CABG in ___, DM, hypercholesterolemia, who 
presents with dizziness and was found to have ___. Patient was 
visiting his brother in the ___ building, when he had an 
episode of dizziness and lightheadedness in the hallway. He felt 
that he was falling but caught himself. He denies LOC. Patient 
and wife note that he looked clammy with diaphoresis (wife says 
he has been pale and having HA x2 days). He received orange 
juice upstairs and felt better afterwards. He was then sent to 
the ED for further evaluation. 

He reports having mild nausea for last 2 days. This was worse 
with eating, resulting in decreased PO intake. He did not eat 
anything on day of presentation. Otherwise patient denies 
fevers, chills, shortness of breath, chest pain, palpitations, 
vomiting, diarrhea, or abdominal pain. He reports no chest 
discomfort, urinary symptoms, or recent medication changes. Of 
note, his urine is chronically cloudy, sweet-smelling, and foamy 
___ DM. Also of note, he reports his diabetes regimen has been 
changed multiple times due to poor control and he was previously 
on insulin, currently on oral anti-hyperglycemic agents.

In the ED, initial vitals were: 97.6 68 135/65 20 97% RA.
An EKG revealed nonspecific T wave changes in lateral leads. 
Trops were negative x2. A stress test showed nonspecific ST 
changes without angina or presyncopal sxs, although he did have 
a blunted heart rate response (73% predicted). CBC showed mild 
leukocytosis and Chem7 revealed Cr of 2.8 up from baseline of 
1.1 (on ___ per PCP). He was observed overnight, and the 
following morning's Cr was 2.5. He subsequently received 2L NS 
in the ED. On the floor, his vitals are stable, and he reports 
feeling asymptomatic.
 
Past Medical History:
- CAD s/p CABGx3 in ___ and stent in early ___
- DM
- HTN
- HLD
 
Social History:
___
Family History:
Mother with colon cancer. Father's side of family with DM. 
Denies hx of CAD or renal disease.
 
Physical Exam:
EXAM ON ADMISSION:
==================
Vital Signs:  98.4 157/89 70 18 97 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not able to evaluate, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Flank: no CVA tenderness
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: AAOx3, ambulating.  

EXAM AT DISCHARGE:
==================
Vitals: T 97.9, BP 124/73, HR 51, RR 18, SAT 97 RA 
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: obese, soft, non-tender, non-distended, bowel sounds 
present
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: no rashes
Neuro: AAOx3, ambulating
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 04:02PM   GLUCOSE-179* UREA N-32* CREAT-2.8* SODIUM-139 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-20* ANION GAP-19
___ 04:02PM   WBC-13.4* RBC-4.78 HGB-13.5* HCT-40.3 MCV-84 
MCH-28.2 MCHC-33.5 RDW-14.1 RDWSD-43.5
___ 04:02PM   PLT COUNT-280
___ 04:02PM   NEUTS-75.7* LYMPHS-14.2* MONOS-9.0 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-10.13* AbsLymp-1.90 AbsMono-1.21* 
AbsEos-0.05 AbsBaso-0.05
___ 05:55PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 05:55PM URINE  GRANULAR-106*
___ 04:02PM   cTropnT-<0.01
___ 08:09PM   cTropnT-<0.01

STUDIES:
========
STRESS TEST Study Date of ___   
IMPRESSION: Fair/average exercise tolerance for age. No anginal 
symptoms or pre-syncopal symptoms with nonspecific ST-T wave 
changes. Occasional isolated VPBs with one ventricular couplet 
and one ventricular triplet. Appropriate blood pressure response 
to exercise. Blunted heart rate response to exercise. 

CHEST (PA & LAT) Study Date of ___ 5:11 ___ 
FINDINGS:  Patient is status post median sternotomy peerno focal 
consolidation is seen.  No pleural effusion or pneumothorax is 
seen. Cardiac silhouette is borderline in size.  Mediastinal 
contours are unremarkable.  No pulmonary edema is seen. 
IMPRESSION:  No acute cardiopulmonary process. 
 
RENAL U/S (Study Date of ___ 8:01AM) 
IMPRESSION: 
1. Normal renal ultrasound. 
2. Incidentally noted on limited views the liver is diffusely 
echogenic consistent with hepatic steatosis. Other forms of 
liver disease and more advanced liver disease including 
significant hepatic fibrosis/cirrhosis can't be excluded on this 
study.

LABS ON DISCHARGE:
==================
___ 06:05AM BLOOD Glucose-81 UreaN-28* Creat-2.2* Na-145 
K-4.5 Cl-110* HCO3-20* AnGap-20
___ 06:05AM BLOOD Calcium-9.1 Phos-3.2 Mg-2.4
___ 06:05AM BLOOD WBC-8.0 RBC-4.41* Hgb-12.5* Hct-37.5* 
MCV-85 MCH-28.3 MCHC-33.3 RDW-14.1 RDWSD-43.8 Plt ___
 
Brief Hospital Course:
Mr. ___ is a ___ M with h/o CAD, DM who presents with 
lightheadedness/dizziness and ___ with Cr >2x baseline.

# ___: Pt presented with Cr 2.8 up from baseline 1.1 (measured 
___ per PCP). Cr has since downtrended to and stabilized at 
2.1-2.2. Nausea with poor PO intake and possible orthostasis 
would suggest prerenal ___ with possible ischemic ATN. However, 
urine lytes (UNa, FeNA, FeUrea) and BUN:Cr would suggest against 
pre-renal etiology. Normal renal U/S (___) rules out post-renal 
etiology. Urine sediment shows granular casts, which is not 
specific for any particular intrarenal cause. Clinical exam and 
history is not suggestive of glomerular etiology, and no classic 
nephrotoxic drug taken recently other than ACE-I. Given 
asymptomatic presentation with benign exam and downtrending Cr, 
he can be followed as an outpatient for resolution ___ and/or 
work up of subacute ___ on CKD.

# DM: His home PO meds were held while inpatient given poor PO 
intake prior to admission and risk for hypoglycemia given the 
setting of ___. He was put on fingersticks QACHS with insulin 
sliding scale. He had a minimal insulin requirement (2 units 
total) during his hospitalization. On discharge, his metformin 
and glimiperide were stopped given renal function. Januvia is 
now renally dosed with a reduction to 50 mg daily.

# HTN: He was hypertensive on admission to 157/89, but BPs 
stable at 110-140s/60-70s. His home lisinopril was held given 
___. His home amlodipine and metoprolol were continued.

# CAD: Patient is s/p stent and CABGx3. EKG on admission with 
precordial T wave inversions and chronic inferior Q waves. 
Stress test on ___ showed nonspecific ST-T wave changes without 
angina or pre-syncopal sxs. His home rosuvastatin, clopedigrel, 
ASA, metoprolol were continued.

# Leukocytosis: Pt presented with leukocytosis to 13.4. CXR was 
negative. Clinical picture not concerning for acute infectious 
process at the time (afebrile, stable BPs). Urine culture was 
negative. His leukocytosis resolved to WBC ___.

TRANSITIONAL ISSUES:
====================
[ ] Follow up appointment with PCP to check electrolytes and Cr, 
possible Nephrology referral
[ ] Outpatient management of hypertension: ACE-I held on 
discharge due to ___
[ ] Outpatient management of diabetes: metformin was stopped due 
to newly impaired renal function; glimepiride was stopped due to 
risk of hypoglycemia from his newly impaired renal function; 
Januvia now renally dosed with reduction to 50 mg daily instead 
of 100 mg daily.

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Rosuvastatin Calcium 40 mg PO QPM 
4. glimepiride 4 mg oral BID 
5. Metoprolol Succinate XL 50 mg PO QHS 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Lisinopril 10 mg PO QHS 
8. Januvia (SITagliptin) 100 mg oral DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Januvia (SITagliptin) 50 mg oral DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO QHS  
6.  Rosuvastatin Calcium 40 mg PO QPM  
7. HELD- Lisinopril 10 mg PO QHS  This medication was held. Do 
not restart Lisinopril until your primary care doctor instructs 
you to do so.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Acute kidney injury on chronic kidney disease

SECONDARY DIAGNOSES:
====================
- Diabetes
- Coronary artery disease
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___. 

Why did you come to the hospital?
 - You were feeling lightheaded and were evaluated in the 
emergency department. In the emergency department, they 
discovered that your kidney function had significantly worsened 
since your visit with your primary care physician early in 
___. You were admitted in order to evaluate your kidney 
function.

What did you receive in the hospital?
 - In the hospital, you received a number of blood and urine 
laboratory tests to evaluate your kidney function and potential 
causes of kidney injury. You also received a kidney ultrasound 
to evaluate for kidney injury. You also received a cardiac 
stress test to evaluate your cardiac function. You were also 
given intravenous fluids in the emergency department.
 - We did not identify an exact cause of your kidney impairment, 
but the kidney function was stable at the time of discharge. You 
will need close follow up with your primary care doctor and 
likely a referral to see a kidney specialist as well.

What should you do once you leave the hospital?
 - You should follow up with your primary care physician about 
your kidney function.
 - You should have follow up with a kidney doctor. You preferred 
to see your primary care doctor before having a referral to one.
 - Please have your labs checked the day before your appointment 
with your PCP. Your PCP's office said that you can just go to 
the walk-in lab location.
 - We made several changes to your medications because of your 
impaired kidney function. Please stop taking metformin, 
glimepiride, and lisinopril until you speak with your PCP. Also, 
please take only ___ tablet of Januvia instead of a full tablet 
to avoid low blood sugar levels.
 - Please stay hydrated by drinking plenty of water and eat a 
low carbohydrate diet before seeing your regular doctor.
 - If you see blood in the urine, foul smelling urine, develop 
fevers or chills, become acutely confused, develop chest pain or 
shortness of breath, or develop significant leg swelling, do not 
hesitate to contact your physician or be seen in the emergency 
department.

We wish you the best!

Your ___ Care Team
 
Followup Instructions:
___